US06768023B2
Ethylbenzene (2 ml), t-butyl nitrite (4 mmol), N-hydroxyphthalimide (0.4 mmol), and acetic acid (2 ml) were placed in a flask and were stirred at 80° C. in an atmosphere of argon gas for 2.5 hours. The resulting mixture was further treated with sulfuric acid having a concentration of 98% by weight (200 mg) with stirring at 70° C. for 15 minutes. The reaction mixture was then neutralized with sodium hydroxide and was analyzed to find that acetophenone oxime, (1-nitroethyl)benzene, acetophenone, and α-methylbenzyl acetate were formed in yields of 61%, 1%, 8%, and 5%, respectively.

reactant | Ethylbenzene | 2 ml | C(C)C1=CC=CC=C1 | C8H10
reactant | t-butyl nitrite | 4 mmol | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-hydroxyphthalimide | 0.4 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetophenone oxime | C(C)(C1=CC=CC=C1)=NO | C8H9NO
reactant | (1-nitroethyl)benzene | [N+](=O)([O-])C(C)C1=CC=CC=C1 | C8H9NO2
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | α-methylbenzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)C | C10H12O2
